US05059728
As another example, 2-trifluoromethyl-1,1,1,3,3,4,4-heptafluorohexane may be prepared by fluorinating commercially available 3,4-hexanedione to form 3,3,4,4-tetrafluorohexane which may then be dehydrogenated to form 3,3,4,4-tetrafluoro-1-hexene. CF3 may then be added to the 3,3,4,4-tetrafluoro-1-hexene to form 2-trifluoromethyl-1,3,3,4,4-pentafluorohexane which may then be dehydrogenated to form 2-trifluoromethyl-1,3,3,4,4-pentafluoro-1-hexene. The 2-trifluoromethyl-1,3,3,4,4-pentafluoro-1-hexene may then be reacted with hydrogen fluoride to form 2-trifluoromethyl-1,1,3,3,4,4-hexafluorohexane which may then be dehydrogenated to form 2-trifluoromethyl-1,1,3,3,4,4-hexafluoro-1-hexene which may then be reacted with hydrogen fluoride to form 2-trifluoromethyl-1,1,1,3,3,4,4-heptafluorohexane.

reactant | 2-trifluoromethyl-1,3,3,4,4-pentafluoro-1-hexene | FC(C(=CF)C(C(CC)(F)F)(F)F)(F)F | C7H6F8
reactant | hydrogen fluoride | F | FH
product | 2-trifluoromethyl-1,1,3,3,4,4-hexafluorohexane | FC(C(C(F)F)C(C(CC)(F)F)(F)F)(F)F | C7H7F9
